US05030629
Preparation of 4-Methyl-2-undecyl-2-imidazoline
18.13 g (100 mmoles) of undecyl cyanide, 9.3 g (125 mmoles) of 1,2-diaminopropane and 0.5 ml of carbon disulfide were heated to 125° C. for 24 hrs. and then worked up as mentioned under Example 23. Kugelrohr distillation at 163°-165° C./1.2-1.4 mm Hg gave 17.85 g (75%) of product.

reactant | undecyl cyanide | 100 mmoles, 18.13 g | C(CCCCCCCCCC)C#N | C12H23N
reactant | 1,2-diaminopropane | 125 mmoles, 9.3 g | NCC(C)N | C3H10N2
solvent | carbon disulfide | 0.5 ml | C(=S)=S | CS2
product | 4-Methyl-2-undecyl-2-imidazoline | 17.85 g, 75% | CC1N=C(NC1)CCCCCCCCCCC | C15H30N2
